US09169215B2
To a clear light yellow solution of 5-amino-1H-pyrazole-4-carbonitrile (169 mg, 1.56 mmol) and 4-fluoro-2-methoxybenzaldehyde (240 mg, 1.56 mmol) in methanol (3 mL) was added cyclopentane isonitrile (150 mg, 174 μL, 1.56 mmol) followed by perchloric acid (31.3 mg, 28.0 μL, 0.312 mmol) at RT under nitrogen atmosphere. The resulting light brown suspension was stirred for 15 h and during this period (within 1 minute) lot of solids were formed. The solids were collected by filtration and washed with methanol. After air drying, 175 mg (33% yield) of 3-(cyclopentylamino)-2-(4-fluoro-2-methoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile was isolated as an off-white solid. LC/MS calcd. for C18H18FN5O (m/e) 339.37, obsd. 340.0 (M+H, ES+).

reactant | 5-amino-1H-pyrazole-4-carbonitrile | 1.56 mmol, 169 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | 4-fluoro-2-methoxybenzaldehyde | 1.56 mmol, 240 mg | FC1=CC(=C(C=O)C=C1)OC | C8H7FO2
reactant | cyclopentane isonitrile | 1.56 mmol, 174 μL, 150 mg | N#[C-].C1CCCC1
reactant | perchloric acid | 0.312 mmol, 28.0 μL, 31.3 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 3 mL | CO | CH4O
product | 3-(cyclopentylamino)-2-(4-fluoro-2-methoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 175 mg, 33% yield | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C=C2)F)OC | C18H18FN5O
